US06664258B1
A mixture of 11.5 gm of 1-(4-fluoro-phenyl)-piperazine 10.0 gm of 1,4-cyclohexanedione mono-ethylene ketal (available from Aldrich) and 27.2 gm NaB(OAc)3 in 250 ml dichloroethylene was kept for 18 hours at ambient temperature. The solvents were removed and the residue partitioned between ethyl acetate (200 ml) and 2N NaOH (200 ml). The ethyl acetate layer is washed with 2×20 ml water and dried over Na2SO4. The crude 1-(1,4-dioxa-spiro[4.5]dec-8-yl)-4-(4-fluoro-phenyl)-piperazine (20.1 gm of a solid) obtained after removing the solvents had a melting point of 116-118° C. A sample of this material (C18H25FN2O2) showed an elemental analysis of C, 67.24%, H, 8.22%. N, 8.98%.

reactant | 1-(4-fluoro-phenyl)-piperazine | 11.5 gm | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | 1,4-cyclohexanedione mono-ethylene ketal | C1COC2(CCC(CC2)=O)O1 | C8H12O3
solvent | dichloroethylene | 250 ml | C(CCl)Cl | C2H4Cl2
product | 1-(1,4-dioxa-spiro[4.5]dec-8-yl)-4-(4-fluoro-phenyl)-piperazine | O1CCOC12CCC(CC2)N2CCN(CC2)C2=CC=C(C=C2)F | C18H25FN2O2
